US08278307B2
Potential Synthesis of 5-[(5-{[4-{[(3R)-3-(dimethylamino)pyrrolidin-1-yl]methyl}-3-(trifluoromethyl)phenyl]carbamoyl}-2-methylphenyl)ethynyl]-1-methyl-1H-imidazole-2-carboxamide
The title compound can be synthesized from 5-ethynyl-1-methyl-1H-imidazole-2-carboxylic acid amide and (R)-N-(4-((3-(Dimethylamino)pyrrolidin-1-yl)methyl)-3-(trifluoromethyl)phenyl)-3-iodo-4-methylbenzamide in a manner similar to that described for Example 2. 5-ethynyl-1-methyl-1H-imidazole-2-carboxylic acid amide is prepared as in Example 2.

reactant | 5-ethynyl-1-methyl-1H-imidazole-2-carboxylic acid amide | C(#C)C1=CN=C(N1C)C(=O)N | C7H7N3O
reactant | (R)-N-(4-((3-(Dimethylamino)pyrrolidin-1-yl)methyl)-3-(trifluoromethyl)phenyl)-3-iodo-4-methylbenzamide | CN([C@H]1CN(CC1)CC1=C(C=C(C=C1)NC(C1=CC(=C(C=C1)C)I)=O)C(F)(F)F)C | C22H25F3IN3O
product | 5-[(5-{[4-{[(3R)-3-(dimethylamino)pyrrolidin-1-yl]methyl}-3-(trifluoromethyl)phenyl]carbamoyl}-2-methylphenyl)ethynyl]-1-methyl-1H-imidazole-2-carboxamide | CN([C@H]1CN(CC1)CC1=C(C=C(C=C1)NC(=O)C=1C=CC(=C(C1)C#CC1=CN=C(N1C)C(=O)N)C)C(F)(F)F)C | C29H31F3N6O2
